2141-03-18 09:24:00 Physician Attending Progress Note
Chief Complaint: Anemia, relative hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 y.o. man with afib not on coumadin, mild AS, HTN, diastolic CHF,
   anemia and CRI.
   24 Hour Events:
 EKG - At [**2141-3-17**] 11:45 PM
   Guaiac positive here
   Transfused 1 u pRBCs
   BP in 90's this morning lying in bed, not symptomatic
                                                History obtained from Patient
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-3-18**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2141-3-18**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 34.8
C (94.6
   Tcurrent: 34.8
C (94.6
   HR: 54 (50 - 68) bpm
   BP: 71/48(52) {71/47(52) - 142/121(127)} mmHg
   RR: 8 (8 - 15) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
           Total In:
           900 mL
   PO:
           50 mL
   TF:
   IVF:
   500 mL
   Blood products:
   200 mL
   Total out:
                                                                      0 mL
                                                                    650 mL
   Urine:
   650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, venous stasis changes
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   79 K/uL
   50 mg/dL
   2.9 mg/dL
   25 mEq/L
   4.7 mEq/L
   103 mg/dL
   105 mEq/L
   144 mEq/L
   29.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2141-3-18**]  03:09 AM
   WBC
   5.5
   Hct
   29.4
   Plt
   79
   Cr
   2.9
   Glucose
   50
   Other labs: PT / PTT / INR:13.4/34.4/1.1, ALT / AST:23/44, Alk Phos / T
   Bili:294/1.3, Amylase / Lipase:/156, Differential-Neuts:85.3 %,
   Lymph:8.3 %, Mono:5.7 %, Eos:0.6 %, Fibrinogen:524 mg/dL, Albumin:3.5
   g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: Increased cardiac silohuette, no infiltrates/effusions
   Assessment and Plan
 CHRONIC ATRIAL FIBRILLATION (AFIB):  Off coumadin given guaiac
   positive stools, history of epistaxis, anemia.  Rate controlled.
 ANEMIA, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):  Hct stable.
   No stools here albeit guaiac positive in ED. GI to evaluate to assess
   relative pros/[**Name2 (NI) **] to proceeding with procedure given underlying
   comorbidities.  Also to comment on need for CT abdomen to further
   evaluate ?pancreatic mass, elevated AP/lipase. Unable to give contrast
   given renal function.
 THROMBOCYTOPENIA, ACUTE DROP:  Has been on heparin, now holding.
   Review of drug list doesn't identify other agents that may be
   contributing.  Has had documented splenomegaly on US, may be component
   of sequestration.  Will follow for now.
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC:  Currently more right sided
   failure than left sided CHF.  Lungs and CXR clear.  Likely
   intravascularly dry given poor po intake, would hold diuretics in
   setting of this and relative hypotension.  [**Name2 (NI) 9026**] with IVFs. Plan to
   keep I/Os even today.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): Cr improved with gentle diuresis.  Fluid status as above.
 COAGULOPATHY:  Likely nutritional, agree with vitamin K.  Labs
   trending down.
   Agree with detailed assessment and plan as per [**Hospital **] medical resident's
   note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-3-17**] 11:46 PM
   20 Gauge - [**2141-3-17**] 11:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2141-03-20 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PM HCT (23.6-->24.6), lytes (BL Cr 3).
   -Per GI: no role for scope this admission.
   - Had long discussion with family re: DNR/DNI. They wish to think about
   it further, but are leaning towards changing code status.
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-20**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 88 (72 - 117) bpm
   BP: 84/60(66) {63/30(30) - 263/210(216)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.6 kg
   Height: 60 Inch
             Total In:
                                                                    865 mL
                                                                     77 mL
   PO:
                                                                     25 mL
             TF:
   IVF:
                                                                    490 mL
                                                                     77 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    950 mL
                                                                     85 mL
   Urine:
                                                                    950 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -85 mL
                                                                     -8 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GENERAL
 thin elderly  male  in NAD.
   HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear
   NECK - supple, no thyromegaly, JVP 10-12 cm, no carotid bruits
   LUNGS - Mild right crackles at the base, no r/rh/wh, good air movement,
   resp unlabored, no accessory muscle use
   HEART - nl S1-S2, S3 intermittently present, harsh SEM in RUSB [**3-4**]
   radiating to carotids; SEM [**3-4**] in LLSB without radiation
   ABDOMEN - NABS, mildly tense/NT/ND, no masses or HSM, no
   rebound/guarding.
   EXTREMITIES - WWP, no c/c/e, weak peripheral pulses (radials, DPs)
   NEURO - awake, A&Ox3, responds to verbal commands, moves all
   extremities.
   Labs / Radiology
   101 K/uL
   8.9 g/dL
   53 mg/dL
   3.3 mg/dL
   22 mEq/L
   3.8 mEq/L
   97 mg/dL
   107 mEq/L
   144 mEq/L
   26.2 %
   8.9 K/uL
        [image002.jpg]
                             [**2141-3-18**]  03:09 AM
                             [**2141-3-19**]  04:00 AM
                             [**2141-3-19**]  02:09 PM
                             [**2141-3-20**]  03:01 AM
   WBC
   5.5
   8.6
   8.9
   Hct
   29.4
   23.6
   24.6
   26.2
   Plt
   79
   87
   101
   Cr
   2.9
   3.0
   3.3
   Glucose
   50
   60
   53
   Other labs: PT / PTT / INR:14.5/33.9/1.3, ALT / AST:23/44, Alk Phos / T
   Bili:294/1.3, Differential-Neuts:85.3 %, Lymph:8.3 %, Mono:5.7 %,
   Eos:0.6 %, Fibrinogen:524 mg/dL, Albumin:3.5 g/dL, LDH:280 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR [**3-19**]: Marked cardiomegaly with extensive left lower lobe
   atelectasis. Mild
   overhydration. Minimal increase in density at the right lung base,
   unchanged
   since the previous examination, that might represent the consequence of
   aspiration or developing pneumonia.
   Microbiology: Cdiff pending
   Sputum contaminated.
   Assessment and Plan
   Mr. [**Known lastname 14060**] is a very nice 87 year-old gentleman with HTN, diastolic CHF
   (EF 65% 1/10), AFib not on Coumadin, and mild AS, Stage IV CKD who
   comes with a "drop" in his HCT and elevated creatinine and weight.
   .
   #. Hypotension
 Secondary to end stage cardiac disease as HCT has been
   stable. Patient hypotensive on admission to SBP 70s, MAPS ~50 with HR
   in the 50s.  Given multiple fluid boluses with good response.  Lungs
   clear yesterday am.  PICC placed for possible pressors. Given CHF, both
   fluids and pressors not indicated, but we have limited options as he is
   full code.
   -Holding on diuresis given hypotension yesterday  in setting of IV
   lasix  100 mg IV, and low suspicion for pulm edema.
   -Restarted metoporolol at 6.25 mg [**Hospital1 7**] yesterday but d/cd as pt had
   transient episode of hypotension with SBP to 63 at 1400.
   -Given 1u RBCs in evening to help with BP.
   - follow up cardiology recs
   .
   #. Acute on Chronic Diastolic Heart failure - Patient with EF of 65%
   gaining weight according to rehab (13 pounds), despite higher torsemide
   dose. He does not report any dietary changes and has been on "no salt
   added" diet. He takes his medications as prescribed and no signs of
   infections. No clear precipitant, however he is slowly gaining weight.
   Again, hypotensive as above.  Ideally we would like to keep him on his
   home BB but his hypotension is limiting.
   - cardiology recs
   - Hold torsemide
   - restart metoprolol 6.25mg PO bid as BP tolerates
   - Daily standing weight
   - Continue rate control for AFib
   .
   #. Anemia / GIB?
 Hct 23 on admission, now improved at 26.2 after
   receiving 1u RBCs yesterday.
   - GI recs: no plan for scope this admission
   - [**Hospital1 **] HCT.
   - if continuing to decrease, will transfuse 1U PRBC
   .
   #. Thrombocytopenia
improvement over yesterday 87
 101 today, HIT
   antibody pending.
   - f/u HIT antibody
   - [**Hospital1 **] PLTs
   .
   #. Increased PTT and INR -  given vitamin K on admission. INR 1.3 this
   morning.
   - [**Name (NI) **] PT, PTT
   .
   #. Increased AP and GGT with elevated lipase and an abnormality on
   ultrasound suggestive of a pancreatic mass.
   - MRCP per GI, can plan as outpatient
   .
   #. Chronic atrial fibrillation - Patient with CHADS2 of 2 who is on
   low-dose aspirin and had his coumadin recently stopped
   - metoprolol 6.25mg PO bid, uptitrate as tolerated.
   .
   #. Chronic renal failure - Patient with creatinine of 3 at his new
   baseline since [**2140-9-29**]. His eGFR by MDRD formula is 24 ml/min. He
   is on torsemide 60 mg PO BID for his chronic heart failure, which may
   be contributing to his increased creatinine, but imrpoving his overall
   status. It is recommend to check PTH every 3 months with target of
   70-110.  PTH 200.
   - [**Year (4 digits) **] creatinine, slightly increased today at 3.3 from 3.0 on
   admission, likely secondary to poor forward flow from underlying
   cardiac disease. (but at pt
s baseline)
   . .
   #. Hypercholesterolemia - his last lipid profile included LDL 62, HDL
   85, Chol 156 and TG of 43 in [**2139-9-30**].  Repeat lipids wnl.
   - Continue simvastatin
   .
   #. Vitamin D deficiency - pt with VD of 17. He is currently on
   maintainance therapy.
   - Cont VD given improvement of ICU outcomes (among other things)
   # Goals of Care
 Per OMR and discussion with Dr. [**Last Name (STitle) 8762**], and Dr. [**First Name (STitle) **],
   patient has end stage heart failure, and his prognosis has been
   discussed with him, his wife and daughter many times.  On prior
   admissions, it was understood that there would be no more escalations
   of care, as medical therapy for his heart failure had been maximized.
   Dr. [**Last Name (STitle) 8762**] discussed goals of care with patient, wife and daughter on
   [**3-18**].  Family meeting held last night re: code status; family leaning
   more towards DNR/DNI but final decision not yet made.  Will likely need
   to have frequent family meetings to reinforce the prognosis of his
   heart failure and the limited treatment options available.  For now
   patient is full code.
   ICU Care
   Nutrition: Regular diet, low sodium
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-17**] 11:46 PM
   18 Gauge - [**2141-3-17**] 11:46 PM
   PICC Line - [**2141-3-18**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:  Patient and his wife and children.
   Code status: Full code
   Disposition:ICU

2141-03-20 11:11:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Shock--septic or hypovolemic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -C. Diff now positive
   -Patient with persistent hypotension
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-3-20**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2141-3-20**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 75 (72 - 117) bpm
   BP: 77/41(50) {63/14(24) - 144/108(167)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.1 kg (admission): 72.6 kg
   Height: 60 Inch
             Total In:
                                                                    865 mL
                                                                    118 mL
   PO:
                                                                     25 mL
             TF:
   IVF:
                                                                    490 mL
                                                                    118 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    950 mL
                                                                    185 mL
   Urine:
                                                                    950 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -85 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), [**2-4**]
   SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : Rare at right base, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   101 K/uL
   53 mg/dL
   3.3 mg/dL
   22 mEq/L
   3.8 mEq/L
   97 mg/dL
   107 mEq/L
   144 mEq/L
   26.2 %
   8.9 K/uL
        [image002.jpg]
                             [**2141-3-18**]  03:09 AM
                             [**2141-3-19**]  04:00 AM
                             [**2141-3-19**]  02:09 PM
                             [**2141-3-20**]  03:01 AM
   WBC
   5.5
   8.6
   8.9
   Hct
   29.4
   23.6
   24.6
   26.2
   Plt
   79
   87
   101
   Cr
   2.9
   3.0
   3.3
   Glucose
   50
   60
   53
   Other labs: PT / PTT / INR:14.5/33.9/1.3, ALT / AST:23/44, Alk Phos / T
   Bili:294/1.3, Differential-Neuts:85.3 %, Lymph:8.3 %, Mono:5.7 %,
   Eos:0.6 %, Fibrinogen:524 mg/dL, Albumin:3.5 g/dL, LDH:280 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR-Significant difference in technique--mild increase in RLL
   opacity
   Microbiology: C. Diff positive
   Assessment and Plan
   87 yo male admitted with GI bleed and anemia secondary to blood loss.
   He has maintained significant hypotension across time and now has C.
   Diff seen as positive on stool culture.  He maintains severe
   hypotension with likely a combination of severe compromise of cardiac
   function now complicated by C. Diff colitis and with some volume loss
   and concern for exacerbation of effective cardiac function in that
   setting of active infection.
   1)HYPOTENSION
Patient with recurrent and persistent hypotension in the
   setting of diarrhea and impaired systolic function chronically.  We
   have held diuretics and antihypertensives and will have to match losses
   across next 24 hours.
   -JVD will be monitored
   -Goal I/O is even for today
   -Will hold diuretics at this time
   -Rx for C. Diff is in place
po Vanco in place in combination with
   flagyl
   2)Congestive Heart Failure-
   -Will hold diuretics at this time
   -Will continue to hold anti-hypertensives
   -Follow oxygenation
   -ASA held with concern for blood loss anemia
   -Maintain I/O even across today
   -Dr. [**First Name (STitle) **] to see patient as primary cardiologist and aid in treatment
   planning
   3)Chronic Renal Failure-
   -Is at baseline
   -Follow in vs. out and will need to continue to maintain urine flow as
   possible
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-17**] 11:46 PM
   18 Gauge - [**2141-3-17**] 11:46 PM
   PICC Line - [**2141-3-18**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 33 minutes

2141-03-21 07:55:00 Physician Resident Progress Note
Chief Complaint: acute renal failure & anemia
   24 Hour Events:
   - family changed code status to DNR/DNI
   - family too weak for commode, family very upset about patient
   inability to use commode on own
   - family meeting held for goals of care, no major decisions, but family
   more satisfied with plan
   - started IV flagyl & PO vancomycin for C. diff
   - cardiology recs, Dr. [**First Name (STitle) **] will see family tomorrow
   - GI recs: MRCP when stable
   - patient required numerous IVF boluses totaling >2.5L on the day due
   to sbp's in the 70's, transient response to fluid, but UOP remained
   poor
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Last dose of Antibiotics:
   Metronidazole - [**2141-3-21**] 03:45 AM
   Vancomycin - [**2141-3-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-3-20**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-21**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 97 (65 - 97) bpm
   BP: 81/39(50) {68/14(24) - 90/54(64)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 75.1 kg (admission): 72.6 kg
   Height: 60 Inch
             Total In:
                                                                  2,893 mL
                                                                    628 mL
   PO:
                                                                    570 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,323 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                    362 mL
                                                                    420 mL
   Urine:
                                                                    362 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,531 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: thin elderly  male  in NAD, NC in place
   HEENT: NC/AT, PERRLA, EOMI, MMM
   Neck: supple, JVP 10-12 cm, no carotid bruits
   Pulm: Mild right crackles at the bases bilaterally, good air movement
   Cardiac:  nl S1-S2, SEM in RUSB [**3-4**] radiating to carotids
   Abd: NABS, NT/ND, no masses or HSM
   Eext: WWP, no c/c/e, 1+ peripheral pulses
   Neuro:  A&Ox3, responds to verbal commands, moves all extremities.
   Labs / Radiology
   110 K/uL
   8.6 g/dL
   92 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   100 mg/dL
   110 mEq/L
   143 mEq/L
   26.5 %
   2.8 K/uL
        [image002.jpg]
                             [**2141-3-18**]  03:09 AM
                             [**2141-3-19**]  04:00 AM
                             [**2141-3-19**]  02:09 PM
                             [**2141-3-20**]  03:01 AM
                             [**2141-3-20**]  02:28 PM
                             [**2141-3-21**]  03:13 AM
   WBC
   5.5
   8.6
   8.9
   2.8
   Hct
   29.4
   23.6
   24.6
   26.2
   24.8
   26.5
   Plt
   79
   87
   101
   110
   Cr
   2.9
   3.0
   3.3
   3.7
   Glucose
   50
   60
   53
   92
   Other labs: PT / PTT / INR:14.5/33.9/1.3, ALT / AST:17/32, Alk Phos / T
   Bili:221/1.2, Differential-Neuts:85.3 %, Lymph:8.3 %, Mono:5.7 %,
   Eos:0.6 %, Fibrinogen:524 mg/dL, Albumin:2.9 g/dL, LDH:214 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR [**3-20**]: FINDINGS: As compared to the recent study, there is
   a worsening area of opacity in the right lung base, potentially due to
   a developing area of  pneumonia in the appropriate clinical setting.
   Small adjacent pleural effusion is also slightly increased. Marked
   cardiomegaly, mild pulmonary vascular congestion and left retrocardiac
   opacity are all unchanged in the interval.
   Assessment and Plan
   Mr. [**Known lastname 14060**] is a very nice 87 year-old gentleman with HTN, diastolic CHF
   (EF 65% 1/10), AFib not on Coumadin, and mild AS, Stage IV CKD who
   comes with a "drop" in his HCT and elevated creatinine and weight.
   #. C. difficile colitis: Patient with C. diff toxin positive from [**3-19**],
   previously treated for C. difficile twice in the past. Started on IV
   Flagyl & PO Vancomycin yesterday with subsequent decrease in WBC.
   Afebrile.
   - Continue Flagyl & Vancomycin, day 2
   - Flexiseal in place
   - IVF
s to ensure adequate fluid resuscitation for GI losses
   - [**Month/Year (2) **] WBC & fever curve
   #. Hypotension: Secondary to end stage cardiac disease & infection.
   Patient hypotensive on admission to SBP 70s, MAPS ~50 with HR in the
   50s.  Given multiple fluid boluses with transient response.  Lungs
   clear yesterday am.  PICC placed for possible pressors. Given CHF, both
   fluids and pressors not indicated, but we have limited options as he is
   full code.
   -Holding on diuresis given hypotension yesterday  in setting of IV
   lasix  100 mg IV, and low suspicion for pulm edema.
   -Restarted metoporolol at 6.25 mg [**Hospital1 7**] yesterday but d/cd as pt had
   transient episode of hypotension with SBP to 63 at 1400.
   -Given 1u RBCs in evening to help with BP.
   - follow up cardiology recs
   #. Acute on Chronic Diastolic Heart failure: Patient with EF of 65%
   gaining weight according to rehab (13 pounds), despite higher Torsemide
   dose. No clear precipitant, and Torsemide & BB held in context of
   hypotensions.
   - Cardiology recs
   - Hold Torsemide
   - Hold Metoprolol
   - Daily standing weight
   #. Oliguric Acute on chronic renal failure: Patient with creatinine of
   3 at his new baseline since [**2140-9-29**]. Cr this AM 3.7 with despite
   frequent fluid boluses likely secondary to poor forward flow from
   underlying cardiac disease in addition to known C. difficile infection.
   - Continue to hold Torsemide 60 mg PO BID for his chronic heart failure
   given hypotension & ARF
   - [**Year (4 digits) **] creatinine
   - Renally dose all medications
   - Avoid nephrotoxic agents
   - Continue IVF boluses PRN as respiratory status tolerates
   #. Anemia / GIB?: Stable. Hct 26.5 today.
   - GI recs: no plan for scope this admission
   - [**Year (4 digits) **] HCT
   - If continuing to decrease, will transfuse 1U PRBC
   #. Thrombocytopenia: Stable. PLT 110 up from 101. HIT antibody pending.
   - f/u HIT antibody
   - [**Year (4 digits) **] PLTs
   #. Increased PTT and INR:  Stable.  INR 1.3 this morning.
   - [**Name (NI) **] PT, PTT
   #. Increased AP and GGT with elevated lipase and an abnormality on
   ultrasound suggestive of a pancreatic mass.
   - MRCP per GI, can plan as outpatient
   #. Atrial fibrillation: Patient with CHADS2 of 2 on low-dose aspirin as
   an outpatient.
   - Hold Metoprolol given hypotension & adequate rate control
   #. Hypercholesterolemia: Last lipid profile was LDL 62, HDL 85, Chol
   156 and TG of 43 in [**2139-9-30**].  Repeat lipids wnl.
   - Continue Simvastatin
   #. Vitamin D deficiency - pt with VD of 17. He is currently on
   maintainance therapy.
   - Cont VD
   ICU Care
   Nutrition: Low sodium diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-17**] 11:46 PM
   18 Gauge - [**2141-3-17**] 11:46 PM
   PICC Line - [**2141-3-18**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:
   Code status: DNR / DNI
   Disposition: ICU

2141-03-21 10:55:00 Physician Attending Progress Note
Chief Complaint: Congestive Heart Failure
   C. Diff Colitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   IVF to 2.5 liters given across past 24 hours
   Patient has had Vanco po started at 125 and increase to 250 today
   Appreciate suppor from Dr. [**Last Name (STitle) 3014**] and cardiology in regards to
   treatment intervention and careful use of fluids for support.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Last dose of Antibiotics:
   Metronidazole - [**2141-3-21**] 03:45 AM
   Vancomycin - [**2141-3-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Flowsheet Data as of  [**2141-3-21**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 97 (65 - 97) bpm
   BP: 81/39(50) {69/33(41) - 90/54(64)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 75.1 kg (admission): 72.6 kg
   Height: 60 Inch
             Total In:
                                                                  2,893 mL
                                                                    659 mL
   PO:
                                                                    570 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,323 mL
                                                                    609 mL
   Blood products:
   Total out:
                                                                    362 mL
                                                                    420 mL
   Urine:
                                                                    362 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,531 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
regular this morning
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
rare crackles seen
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
patient with brisk
   verbal response and quick capacity to answer questions and follow
   commands
   Labs / Radiology
   8.6 g/dL
   110 K/uL
   92 mg/dL
   3.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   100 mg/dL
   110 mEq/L
   143 mEq/L
   26.5 %
   2.8 K/uL
        [image002.jpg]
                             [**2141-3-18**]  03:09 AM
                             [**2141-3-19**]  04:00 AM
                             [**2141-3-19**]  02:09 PM
                             [**2141-3-20**]  03:01 AM
                             [**2141-3-20**]  02:28 PM
                             [**2141-3-21**]  03:13 AM
   WBC
   5.5
   8.6
   8.9
   2.8
   Hct
   29.4
   23.6
   24.6
   26.2
   24.8
   26.5
   Plt
   79
   87
   101
   110
   Cr
   2.9
   3.0
   3.3
   3.7
   Glucose
   50
   60
   53
   92
   Other labs: PT / PTT / INR:14.5/33.9/1.3, ALT / AST:17/32, Alk Phos / T
   Bili:221/1.2, Differential-Neuts:85.3 %, Lymph:8.3 %, Mono:5.7 %,
   Eos:0.6 %, Fibrinogen:524 mg/dL, Albumin:2.9 g/dL, LDH:214 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient with continued need for IVf and PRBC for persistent hypotension
   in the setting of severe compromise of cardiac funciton.  This has been
   a trigger for increased levels of need and support with patient now
   seen to have requirement for foley and rectal catheter.  He has had
   good response to IVF and PRBC support and been able to maintain a
   perfusing pressure.
   1)D. Diff Colitis--
   PO vanco to 250
   IV Flagyl to continue
   Fluid bolus as needed for sustained drop in SBP
   Continue rectal tube for drainge
   2)Congestive Heart Failure-
   -Will continue with IVF as needed
   -Will provide 1 unit PRBC today
   -Appreciate cardiology input and will look to optimize CHF regimen at
   this time.
   ICU Care
   Nutrition: NPO at this time---will move to po with stability of blood
   pressure and diarrhea
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-17**] 11:46 PM
   18 Gauge - [**2141-3-17**] 11:46 PM
   PICC Line - [**2141-3-18**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family updated in full with wife and children
   here.  We will have to continue to consider patient wishes in plan of
   care
at this time he has continued statement that he is too
   uncomfortable to go on and would rather be dead.  This is a short term
   complaint with patient having substantial discomfort but we have
   expectation for possible recovery and medically the treatment required
   is not considered extraordinary measures
po antibiotics and a rectal
   tube and we emphasized that we would continue to treat.  If we are not
   seeing any improvement or are seeing continuous clinical decline
   certainly CMO status could be entertained but at this time will proceed
   with full treatment and DNR/DNI status
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45

2141-03-22 07:10:00 Physician Resident Progress Note
Chief Complaint: acute renal failure, anemia
   24 Hour Events:
   - given 1U PRBC
   - HIT assay positive
   - did not start anticoagulation, patient had h/o GI bleed & epistaxis
   on coumadin, stopped on discharge from [**Hospital1 1896**] [**2141-2-15**]
   - given 500 cc bolus for SBP in 70
s x 1
   - rested comfortably overnight with Ativan
   - weaned off oxygen this AM
   Allergies:
   Quinidine
   fever;
   Propranolol
   Agitation;
   Last dose of Antibiotics:
   Metronidazole - [**2141-3-22**] 04:29 AM
   Vancomycin - [**2141-3-22**] 06:20 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-3-21**] 12:49 PM
   Pantoprazole (Protonix) - [**2141-3-21**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-22**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 78 (66 - 88) bpm
   BP: 106/73(80) {73/39(50) - 108/73(80)} mmHg
   RR: 15 (8 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 75.1 kg (admission): 72.6 kg
   Height: 60 Inch
             Total In:
                                                                  1,511 mL
                                                                    768 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
                                                                    931 mL
                                                                    768 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    725 mL
                                                                    320 mL
   Urine:
                                                                    425 mL
                                                                    320 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    786 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: RA
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: thin, elderly man, in NAD
   HEENT: JVD elevated, no LAD
   Cardiac: III/VI systolic murmur radiating to carotids
   Resp: Clear to auscultation anteriorly, trace crackles at bases
   Abdomen: firm, non-tender, non-distended, + bowel sounds
   Ext: pedal edema R>L, [**Male First Name (un) **] stockings in place
   Foley:  pink urine in Foley bag
   Labs / Radiology
   120 K/uL
   9.2 g/dL
   77 mg/dL
   3.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   93 mg/dL
   109 mEq/L
   143 mEq/L
   27.8 %
   2.5 K/uL
        [image002.jpg]
                             [**2141-3-18**]  03:09 AM
                             [**2141-3-19**]  04:00 AM
                             [**2141-3-19**]  02:09 PM
                             [**2141-3-20**]  03:01 AM
                             [**2141-3-20**]  02:28 PM
                             [**2141-3-21**]  03:13 AM
                             [**2141-3-21**]  05:28 PM
                             [**2141-3-22**]  04:33 AM
   WBC
   5.5
   8.6
   8.9
   2.8
   2.2
   2.5
   Hct
   29.4
   23.6
   24.6
   26.2
   24.8
   26.5
   29.0
   27.8
   Plt
   79
   87
   101
   110
   120
   120
   Cr
   2.9
   3.0
   3.3
   3.7
   3.5
   3.5
   Glucose
   50
   60
   53
   92
   88
   77
   Other labs: PT / PTT / INR:13.4/31.4/1.1, ALT / AST:17/32, Alk Phos / T
   Bili:221/1.2, Differential-Neuts:85.3 %, Lymph:8.3 %, Mono:5.7 %,
   Eos:0.6 %, Fibrinogen:524 mg/dL, Albumin:2.9 g/dL, LDH:214 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: HIT-Ab: Positive
   Imaging: CXR [**2-21**]:
   CHEST, AP: There has been overall decrease in diffuse pulmonary edema,
   with improvement in the focal right lower lobe opacities. There are
   likely bilateral dependent layering effusions. Some left lower lobe
   atelectasis persists. Moderate cardiomegaly is unchanged. The aorta is
   calcified and tortuous.
   IMPRESSION: Improving pulmonary edema. Cannot exclude pneumonia.
   Recommend conventional radiographs when feasible.
   Assessment and Plan
   Mr. [**Known lastname 14060**] is a very nice 87 year-old gentleman with HTN, diastolic CHF
   (EF 65% 1/10), AFib not on Coumadin, and mild AS, Stage IV CKD who
   comes with a "drop" in his HCT and elevated creatinine and weight.
   #. C. difficile colitis: Patient with C. diff toxin positive from [**3-19**],
   previously treated for C. difficile twice in the past. On IV Flagyl &
   PO Vancomycin with subsequent decrease in WBC. Afebrile. Stool output
   minimal over past 24 hours, but as patient with Stage II sacral ulcer,
   should ensure ability to use commode safely prior to removing
   flexiseal.
   - Continue Flagyl & Vancomycin, day 3
   - Flexiseal in place for now, will re-address later today based on
   stool output
   - IVF
s to ensure adequate fluid resuscitation for GI losses
   - [**Month/Year (2) **] WBC & fever curve
   #. Acute on Chronic Diastolic Heart failure: Patient with EF of 65%
   gaining weight according to rehab (13 pounds), despite higher Torsemide
   dose. No clear precipitant, and Torsemide & BB held in context of
   hypotension. Patient not requiring O2 this AM.
   - Cardiology recs
   - Hold Torsemide
   - Hold Metoprolol
   - Daily standing weight
   #. Oliguric Acute on chronic renal failure: Patient with creatinine of
   3 at his new baseline since [**2140-9-29**]. Cr this AM 3.6, only required
   1 500cc fluid bolus. Likely secondary to poor forward flow from
   underlying cardiac disease as GI losses from C. diff were minimal over
   the past 24 hours.
   - Continue to hold Torsemide 60 mg PO BID for his chronic heart failure
   given hypotension & ARF
   - [**Year (4 digits) **] creatinine
   - Renally dose all medications
   - Avoid nephrotoxic agents
   - Continue IVF boluses PRN as respiratory status tolerates
   #. Hypotension: Improved. SBP
s in the 90-100
s since MN, required only
   1 500cc bolus yesterday in the context of receiving 1u pRBC
s. >5L
   positive LOS, [**1-31**] end stage cardiac disease & infection. Lungs
   relatively clear this morning.
   - Hold BB & Torsemide as well rate-controlled and SBP improved,  but
   still tenuous
   - IVF boluses PRN
   #. Anemia / ?GI ooze: Hct 27.8 after 1u pRBC Hct of 29.5. Within margin
   of error of Hct test, but may represent slow ooze.
   - [**Month/Day (2) **] HCT
   - If continuing to decrease, will transfuse another 1U PRBC
   #. Thrombocytopenia: Slowly improving. PLT 120 today. HIT-antibody
   positive. On [**Male First Name (un) **] stockings with some mild blood in urine this AM & GI
   ooze with downtrending Hct after transfusion. Per 4T risk profile,
   probability of HIT low & specificity (74-86%) low. Could consider
   pneumoboots, but patient may not be amenable.
   - Send serotonin release assay
   - [**Male First Name (un) **] PLTs
   - Pneumoboots pending patient discussion
   #. Increased AP and GGT with elevated lipase and an abnormality on
   ultrasound suggestive of a pancreatic mass.
   - MRCP per GI, can plan as outpatient
   #. Atrial fibrillation: Patient with CHADS2 of 2 on low-dose aspirin as
   an outpatient, now holding due to anemia/GI ooze.
   - Continue to hold Metoprolol given adequate rate control & low-normal
   blood pressures
   #. Hypercholesterolemia: Last lipid profile was LDL 62, HDL 85, Chol
   156 and TG of 43 in [**2139-9-30**].  Repeat lipids wnl.
   - Continue Simvastatin 40mg PO daily
   #. Increased PTT and INR:  Resolved.  INR 1.1 this morning.
   - [**Name (NI) **] PT/PTT/INR
   #. Vitamin D deficiency - pt with VD of 17. He is currently on
   maintainance therapy.
   - Continue Vitamin D 1000u PO daily
   ICU Care
   Nutrition: low salt diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-17**] 11:46 PM
   18 Gauge - [**2141-3-17**] 11:46 PM
   PICC Line - [**2141-3-18**] 07:00 PM
   Prophylaxis:
   DVT: [**Male First Name (un) **]
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient & family
   Code status: DNR / DNI
   Disposition: call out

2141-03-22 11:00:00 Physician Attending Progress Note
Chief Complaint: Congestive Heart Failure
   C. Diff Colitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   500cc fluid bolus required--otherwise with reasonable blood pressure
   Stool--only 300cc
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Last dose of Antibiotics:
   Metronidazole - [**2141-3-22**] 04:29 AM
   Vancomycin - [**2141-3-22**] 06:20 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-3-21**] 12:49 PM
   Pantoprazole (Protonix) - [**2141-3-21**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2141-3-22**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.3
C (95.6
   HR: 74 (66 - 85) bpm
   BP: 97/65(73) {74/41(51) - 108/73(80)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 75.1 kg (admission): 72.6 kg
   Height: 60 Inch
             Total In:
                                                                  1,511 mL
                                                                    807 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
                                                                    931 mL
                                                                    807 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    725 mL
                                                                    500 mL
   Urine:
                                                                    425 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    786 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   120 K/uL
   77 mg/dL
   3.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   93 mg/dL
   109 mEq/L
   143 mEq/L
   27.8 %
   2.5 K/uL
        [image002.jpg]
                             [**2141-3-18**]  03:09 AM
                             [**2141-3-19**]  04:00 AM
                             [**2141-3-19**]  02:09 PM
                             [**2141-3-20**]  03:01 AM
                             [**2141-3-20**]  02:28 PM
                             [**2141-3-21**]  03:13 AM
                             [**2141-3-21**]  05:28 PM
                             [**2141-3-22**]  04:33 AM
   WBC
   5.5
   8.6
   8.9
   2.8
   2.2
   2.5
   Hct
   29.4
   23.6
   24.6
   26.2
   24.8
   26.5
   29.0
   27.8
   Plt
   79
   87
   101
   110
   120
   120
   Cr
   2.9
   3.0
   3.3
   3.7
   3.5
   3.5
   Glucose
   50
   60
   53
   92
   88
   77
   Other labs: PT / PTT / INR:13.4/31.4/1.1, ALT / AST:17/32, Alk Phos / T
   Bili:221/1.2, Differential-Neuts:85.3 %, Lymph:8.3 %, Mono:5.7 %,
   Eos:0.6 %, Fibrinogen:524 mg/dL, Albumin:2.9 g/dL, LDH:214 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: HIt--Positive
   Imaging: CXR--Unchanged edema and effusion allowing for substantial
   patient rotation.
   Assessment and Plan
   87 yo with congestive heart failure--chronic, diastolic now admitted
   with C. Diff colitis and with po antibiotic Rx and careful volume
   support with IV fluid bolus patient has shown reasonable stability of
   blood pressure over past 24 hours. We have substantial decrease in
   stool volume and improved hemodynamics with blood and fluids support.
   1)C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   -Will continue with po vanco
   -Will continue with rectal tube
   -Will continue to move towards patient OOB if tolerated
   2)Congestive Heart Failure-
   -Weaned to room air
   -Will continue to support with fluids as needed
   -Maintain beta blocker therapy hold for now and if we see elevation in
   HR or continued stability of blood pressure will return beta-blocker
   3) RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)-
   -With volume replacement has had Cr maintained at 3.5
   -We have 5 liters LOS positive
   -Renal dose meds
   -Avoid nephrotoxins
   4)Hematuria-New
   -Will send U/A
   -[**Month (only) 51**] be trauma related with foley
   -Had mild thrombocytopenis
   5)HIT Positive-
   -Will move to serotonin release assay
   -Patient with improvement in platelet count with hold of heparin
   -Will continue to hold heparin
   ICU Care
   Nutrition: PO intake to resume as diarrhea decreases.
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-17**] 11:46 PM
   18 Gauge - [**2141-3-17**] 11:46 PM
   PICC Line - [**2141-3-18**] 07:00 PM
   Prophylaxis:
   DVT: Compression stockings and with HIT AB+ will not do sq heparin, we
   have boots ordered but patient refusing at this time
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: Family updated during rounds
   Code status: DNR / DNI
   Disposition : TO floor
   Total time spent: 35